US04454320
3-Bromobenzo[b]furan [Mason et al., J. Chem. Soc., p. 3150 (1931)] is reacted with n-butyl lithium and then with alloxan, following the procedure of Example 5, to yield 5-(3-benzo[b]furyl)-5-hydroxy-2,4,6(1H,3H,5H)pyrimidinetrione.

reactant | 3-Bromobenzo[b]furan | BrC=1C2=C(OC1)C=CC=C2 | C8H5BrO
reactant | n-butyl lithium | C(CCC)[Li]
reactant | alloxan | N1C(=O)NC(=O)C(=O)C1=O | C4H2N2O4
product | 5-(3-benzo[b]furyl)-5-hydroxy-2,4,6(1H,3H,5H)pyrimidinetrione | O1C2=C(C(=C1)C1(C(NC(NC1=O)=O)=O)O)C=CC=C2 | C12H8N2O5
